US07842688B2
c) Benzyl 4-[4-(2(R)-hydroxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The mixture of 0.280 g of benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate, 0.152 g of 2(S)-phenoxymethyloxirane and 0.0015 g of caesium fluoride is stirred at 130° C. over 3 hours. The reaction mixture is cooled and the title compound is obtained as a colourless oil by means of flash chromatography (SiO2 60F). Rf=0.13 (1:1 EtOAc-heptane); Rt=5.14.

reactant | benzyl 4-(4-hydroxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.280 g | OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C32H36N2O7
reactant | 2(S)-phenoxymethyloxirane | 0.152 g | O(C1=CC=CC=C1)C[C@H]1OC1 | C9H10O2
reactant | caesium fluoride | 0.0015 g | [F-].[Cs+]
product | Benzyl 4-[4-(2(R)-hydroxy-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | O[C@@H](COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)COC1=CC=CC=C1 | C41H46N2O9
